Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
elevated INR
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms ___ is a ___ year-old female with a history of Afib with a 
pacemaker in place and s/p mechanical AVR and MVR on warfarin 
referred here by her PCP for an INR of 7.9. Her dose of warfarin 
was increased from 6 to 7 mg daily on ___ (INR last ___ 
was 1.8). She denies any bleeding, BRBPR, melena. Denies CP, 
SOB, fevers, chills, dysuria. Has had lower right back pain 
since yesterday. She is a very poor historian with significant 
dementia.  
.  
In the ED, inital VS were T 98.4 HR 68 BP 125/48 RR 18 Sat 96%. 
Labs were significant for ARF with a Cr of 2.2 (from 1.4), INR 
of 9.4. No CVA tenderness. UA was positive with >50 WBC and ___ 
WBC on repeat. No medications were given. She was admitted to 
Medicine for further management.  
.  
Review of Systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies chest pain or tightness, palpitations. Denies 
cough, shortness of breath, or wheezes. Denied nausea, vomiting, 
diarrhea, constipation or abdominal pain. No recent change in 
bowel or bladder habits. No dysuria. Denies arthralgias or 
myalgias. Denies rashes or skin breakdown. No numbness/tingling 
in extremities. No feelings of depression or anxiety. All other 
review of systems negative.
 
Past Medical History:
- Mechanical MVR, AVR, and tricuspid repair with ___ ring 
in ___  
- Rheumatic heart disease  
- Chronic atrial fibrillation  
- Pacemaker in place  
- Hypertension.  
- Recurrent urinary tract infections
 
Social History:
___
Family History:
- Multiple relatives with rheumatic heart disease
 
Physical Exam:
VS: 96.7 117/53 61 16 95% on RA  
GEN: Elderly, cachectic  
HEENT: MMM, no OP lesions, JVP 10 cm, no LAD  
CV: Irregular, IV/VI SEM with loud S1  
PULM: CTAB  
ABD: BS+, soft NTND, no masses or HSM, + gas on percussion  
LIMBS: No ___ edema, +arthritic changes  
SKIN: No petechiae or bruises, chronic ___ venous stasis  
NEURO: A and O x 1 to self only, reflexes diffusely 2+  
 
Pertinent Results:
LABS ON ADMISSION:
___ 07:40PM BLOOD WBC-11.4* RBC-4.31 Hgb-12.9 Hct-39.7 
MCV-92 MCH-29.9 MCHC-32.6 RDW-15.4 Plt ___
___ 07:40PM BLOOD Neuts-78.2* Lymphs-15.2* Monos-5.2 
Eos-0.9 Baso-0.5
___ 01:30PM BLOOD ___
___ 07:40PM BLOOD Glucose-91 UreaN-77* Creat-2.2* Na-140 
K-4.5 Cl-96 HCO3-34* AnGap-15
___ 06:35AM BLOOD Albumin-3.6 Calcium-9.0 Phos-3.7 Mg-2.6
.
LABS ON DISCHARGE:
___ 04:20AM BLOOD WBC-7.8 RBC-3.72* Hgb-11.2* Hct-33.5* 
MCV-90 MCH-30.1 MCHC-33.5 RDW-15.0 Plt ___
___ 04:20AM BLOOD Plt ___
___ 04:20AM BLOOD ___ PTT-34.3 ___
___ 04:20AM BLOOD Glucose-87 UreaN-67* Creat-1.5* Na-140 
K-4.1 Cl-103 HCO3-30 AnGap-11
___ 04:20AM BLOOD Calcium-8.6 Phos-3.5 Mg-2.3
.
CXR PA and lateral:
IMPRESSION:  
1. Compression fracture of one of the upper thoracic spine 
vertebral bodies is new since ___. 
2. Emphysema. 
3. Severe enlargement of the cardiac silhouette appears somewhat 
globular; however, unchanged since ___.  
 
Brief Hospital Course:
___ y/o female with a history of Afib as well as a mechanical MVR 
and AVR presents with a supratherapeutic INR without evidence of 
bleeding and ARF, also noted to have Ecoli UTI.  
.  
# Coagulopathy: supratherapeutic INR without bleeding, likely 
from newly increased coumadin dose from 6 mg daily to 7 mg 
daily. INR on admission > 9. Goal INR 2.5-3.5 due to MVR. 
Patient received 1 mg vitamin K PO and allowed INR to drift down 
to 3.0; she received 4 mg PO on this date and was discharged on 
6 mg coumadin daily. She will have INR check on ___ with results to be faxed to PCP. She will need coumadin 
adjusted accordingly.
.  
# Bacturia/Ecoli UTI: Pt had WBC in urine with positive 
leukocyte esterase. Pt denied dysuria, but in setting of ARF, 
she was initially treated with IV ceftriaxone. Once 
sensitivities returned, she was transitioned to macrobid BID x 7 
days.
.
# ARF: Cr on presentation 2.2 with most recent baseline of 1.4 
(on ___. She was given IVF hydration and treated for UTI. 
Cr on discharge was 1.5. She will have repeat renal function 
labs drawn with her INR on ___, with results faxed to 
PCP. She was informed to hold her ACEi until seen by PCP.
.
# AVR / MVR / Afib: paced rhythm. Goal INR 2.5 to 3.5; coumadin 
was restarted once INR was 3.0 and she was discharged with 6 mg 
coumadin daily. As above, her INR will be checked ___, 
with results to be faxed to PCP.
.  
# HTN: ACEi was held in setting of ARF. Home HCTZ and lasix were 
continued in house, and were continued on discharge.  
.  
# CHF: Not clinically in failure. Continued digoxin 125mcg PO 
daily, lasix 40mg PO daily, HCTZ per home regimen.  
.
# Dispo: discharge to home, PCP ___, INR and renal 
function labs to be drawn tomorrow
 
Medications on Admission:
- Digoxin 125mcg PO daily  
- HCTZ 25mg PO daily  
- Moexipril 15mg PO daily  
- Warvarin 7mg PO daily - recently adjusted  
- Furosimide 40mg PO daily
 
Discharge Medications:
1. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. Coumadin 6 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
3. Outpatient Lab Work
Please have ___ and Chemistry 7 blood work drawn on ___, 
___ and have results faxed to Dr. ___, 
primary care
4. Macrobid ___ mg Capsule Sig: One (1) Capsule PO twice a day 
for 7 days.
Disp:*14 Capsule(s)* Refills:*0*
5. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
6. Lasix 40 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
1. supratherapeutic INR
2. acute renal failure
3. Ecoli UTI
.
SECONDARY:
1. mechanical mitral valve replacement
2. chronic atrial fibrillation
3. status post pacemaker
4. recurrent urinary tract infections
5. hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for elevated INR, acute kidney 
injury, and urinary tract infection. Your coumadin was initially 
held, until your INR was in the normal range (goal INR 2.5-3.5) 
and then resumed at 6 mg daily on discharge. Please have your 
INR blood work checked on ___. Your kidney 
function was improving on discharge with intravenous fluids and 
antibiotics. Please ensure you stay well hydrated. Please take 
your new antibiotic, as prescribed below, for the urinary tract 
infection.
.
MEDICATION CHANGES/NEW MEDICATIONS:
- START macrobid ___ mg twice a day for 7 days
- CHANGE coumadin to 6 mg daily for now. Please have INR blood 
test on ___ with results sent to your primary 
care doctor, ___. He will adjust your coumadin 
accordingly.
- HOLD moexipril until discussed with your primary care doctor, 
as this medication can affect the kidney function.
.
Please seek medical attention for decreased urine output, 
fevers, chills, chest pain, shortness of breath, abdominal pain, 
or any other concerning symptoms.
 
Followup Instructions:
___